US06537987B1
[trans-7-Chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-acetaldehyde
Dess-Martin periodinane (979 mg, 2.31 mmol) was added to a solution of 2-[trans-7-chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-ethanol (830 mg, 1.92 mmol), pyridine (980 mL) and methylene chloride (18 mL) at 0° C. The mixture was warmed to ambient temperature and stirred 40 minutes before adding more Dess-Martin periodinane (800 mg, 1.89 mmol). After an additional 15 minutes, the reaction was quenched by addition of 5:1 saturated aqueous sodium bicarbonate/saturated aqueous sodium sulfite, stirred 5 minutes, and extracted with ether (2×). The combined organics were washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure, and purified by flash column chromatography (9:1 hexanes/ethyl acetate) to give 562 mg (68%) of the title compound as a white foam.

reactant | Dess-Martin periodinane | 2.31 mmol, 979 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-[trans-7-chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-ethanol | 1.92 mmol, 830 mg | ClC=1C=CC2=C([C@H](O[C@@H](CN2CC(C)(C)C)CCO)C2=C3C(=CC=C2)OCCO3)C1 | C24H30ClNO4
reactant | pyridine | 980 mL | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 1.89 mmol, 800 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 18 mL | C(Cl)Cl | CH2Cl2
product | [trans-7-Chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-acetaldehyde | 562 mg, 68% | ClC=1C=CC2=C([C@H](O[C@@H](CN2CC(C)(C)C)CC=O)C2=C3C(=CC=C2)OCCO3)C1 | C24H28ClNO4
